US06826033B2
To a suspension of (2S)-3-(4-aminophenyl)-2-[[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]amino]-1-propanol dihydrochloride (3.68 g) in a mixed solvent of chloroform and methanol (9:1, 75 ml) was added a saturated aqueous sodium bicarbonate solution (75 ml) and the whole was stirred vigorously. The organic layer was separated and the aqueous layer was extracted with a mixed solvent of chloroform and methanol (9:1, 25 ml×5). The organic layers were combined, dried over magnesium sulfate, filtered, and evaporated to give (2S)-3-(4-aminophenyl)-2-[[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]amino]-1-propanol (2.78 g) as a pale orange crystalline solid.

reactant | (2S)-3-(4-aminophenyl)-2-[[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]amino]-1-propanol dihydrochloride | 3.68 g | Cl.Cl.NC1=CC=C(C=C1)C[C@@H](CO)NC[C@H](O)C1=CC(=CC=C1)Cl
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | sodium bicarbonate | 75 ml | C([O-])(O)=O.[Na+]
solvent | methanol | 75 ml | CO | CH4O
product | (2S)-3-(4-aminophenyl)-2-[[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]amino]-1-propanol | 2.78 g | NC1=CC=C(C=C1)C[C@@H](CO)NC[C@H](O)C1=CC(=CC=C1)Cl | C17H21ClN2O2
